US06916822B2
(a) 2-[4-(2-Methylbutyryl)benzyl]anisole
The 2-(4-diethylcarbamoylbenzyl)anisole (100 mg) obtained in the process of Reference Example 1(d) was dissolved in toluene (2 ml), added with a solution of sec-butyl lithium in n-hexane and cyclohexane (1.0 M, 0.47 ml) at 0° C. under argon atmosphere and stirred at room temperature for 1 hour. After the reaction mixture was slowly poured into 1 N aqueous hydrochloric acid (5 ml) with ice cooling to quench the reaction and the layers were separated, the aqueous layer was extracted with ether (10 ml). The organic layer was washed with saline and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by preparative thin layer silica gel column chromatography (developing solvent: hexane:ethyl acetate=2:1) to obtain 58.3 mg of the title compound. Yield: 61%.

reactant | 2-(4-diethylcarbamoylbenzyl)anisole | 100 mg | C(C)N(C(=O)C1=CC=C(CC2=C(C=CC=C2)OC)C=C1)CC | C19H23NO2
reactant | sec-butyl lithium | C(C)(CC)[Li]
reactant | hydrochloric acid | 1 N, 5 ml | Cl | ClH
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | n-hexane | CCCCCC | C6H14
solvent | cyclohexane | 1.0 M, 0.47 ml | C1CCCCC1 | C6H12
product | 2-[4-(2-Methylbutyryl)benzyl]anisole | 58.3 mg, Yield: 61% | CC(C(=O)C1=CC=C(CC2=C(C=CC=C2)OC)C=C1)CC | C19H22O2
